US08183246B2
6-{[6-(2-Ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid
Dissolve 45 mg (0.10 mmol) 6-{[6-(2-ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester in 2.0 ml dioxan and add 0.5 ml 1 N sodium hydroxide solution. Stir for 16 h at RT, then add 0.5 ml 1 N hydrochloric acid and 5 ml ethyl acetate. Separate the organic phase, dry over sodium sulphate, filter and concentrate by evaporation. 38 mg (87% of theor.) of the target compound is obtained.

reactant | 6-{[6-(2-ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.10 mmol, 45 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)CC)=O | C28H31N3O4
reactant | sodium hydroxide | 1 N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxan | 2.0 ml | O1CCOCC1 | C4H8O2
product | 6-{[6-(2-Ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid | C(C)C1=C(C=CC=C1)C1=C(C2=C(N=CN=C2NCCCCCC(=O)O)O1)C1=CC=C(C=C1)OC | C27H29N3O4
